US07384934B2
(S)-10-[3-(4-Methoxybutyl)-piperazin-1-yl]-2-methyl 4H-3-thia-4,9-diaza-benzo[f]azulene
Heat in a 211° C. oil bath, a stirring solution of (S)-2-(4-methoxybutyl)-piperazine 0.086 g, 0.49 mmol), and 2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine (0.114 g, 0.49 mmol) in NMP (1 mL) for 4 h. Cool to room temperature, dilute the solution with brine (15 mL) and extract with EtOAc (3×30 mL). Concentrate the organic layers under reduced pressure to a volume of 20 mL and wash with 75% brine (4×20 mL). Dry the organic layer over Na2SO4, and filter. Concentrate the mixture under reduced pressure and purify by silica gel chromatography eluting with 10% (33% 2 M NH3 in MeOH/64% EtOH)/CH2Cl2. Combine the purified fractions, concentrate under reduced pressure, azeotrope with CH2Cl2/hexanes and place under vacuum to give the title compound: brown solid (0.036 g), mass spectrum (m/e):385.08 (M+H).

reactant | (S)-2-(4-methoxybutyl)-piperazine | 0.49 mmol, 0.086 g | COCCCC[C@@H]1NCCNC1 | C9H20N2O
reactant | 2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine | 0.49 mmol, 0.114 g | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N | C12H11N3S
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | brine | 15 mL | [Cl-].[Na+].O
product | (S)-10-[3-(4-Methoxybutyl)-piperazin-1-yl]-2-methyl 4H-3-thia-4,9-diaza-benzo[f]azulene | COCCCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2 | C21H28N4OS
